US05064649
(c) Diphenylmethyl 7β-[2-(2-Aminothiazol-4-yl)-2-Z-methoxyiminoacetamido1-3-(E-phthalidylidenemethyl)ceph-3-em-4-carboxylate
2-(2-Aminothiazol-4-yl)-2-Z-methoxyiminoacetic acid (0.018 g) in dry DMF (2 mls) under argon was cooled to -50° C. and treated successively with diisopropylethylamine (0.091 mls) and methanesulphonyl chloride (0.04 mls) for 1 h. A solution of diphenylmethyl 7β-amino-3-(E-phthalidylidenemethyl)ceph-3-em-4-carboxylate (0.222 g) in dichloromethane (3 mls) and pyridine (0.035 mls) was added to the activated intermediate at -50° C. and the solution then allowed to warm slowly to room temperature. The solution was diluted with dichloromethane and washed with water and brine, and then dried. After removal of solvent, the crude product was purified by flash chromatography on silica gel, eluting with ethyl acetate. The title compound was obtained as a yellow amorphous solid, (0.051 g), 17%), νmax (CH2Cl2) 1780(s), 1720(w), 1680(w), 1600(w), 1520(w br) and 1365cm-1 ; δH (CDCl3) 3.59 (2H,ABq,J18.6Hz), 4.09 (3H,s), 5.28(1H,d,J4.9Hz), 5.48 (2H,br.s, exch.), 6.20 (1H,dd,J4.9,8.9Hz; collapses to d on D2O shake, J4.9Hz), 6.42 (1H,s), 6.83 (1H,s), 6.88(1H,s), 7.22 (10 H,m), 7.4-7.6 (3H,m), 7.86 (1H,m) and 7.98 (1H,d,J8.9Hz, exch.); [mass spectrum: +ve ion (3-NOBA, Na+) MNa+, 716].

reactant | 2-(2-Aminothiazol-4-yl)-2-Z-methoxyiminoacetic acid | 0.018 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H7N3O3S
reactant | diisopropylethylamine | 0.091 mls | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 0.04 mls | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl 7β-amino-3-(E-phthalidylidenemethyl)ceph-3-em-4-carboxylate | 0.222 g | N[C@H]1[C@@H]2N(C(=C(CS2)/C=C\2/OC(=O)C3=CC=CC=C23)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H22N2O5S
solvent | DMF | 2 mls | CN(C)C=O | C3H7NO
solvent | dichloromethane | 3 mls | ClCCl | CH2Cl2
solvent | pyridine | 0.035 mls | N1=CC=CC=C1 | C5H5N
product | Diphenylmethyl 7β-[2-(2-Aminothiazol-4-yl)-2-Z-methoxyiminoacetamido1-3-(E-phthalidylidenemethyl)ceph-3-em-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)/C=C\2/OC(=O)C3=CC=CC=C23)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C35H27N5O7S2
